US05475001
Using an analogous procedure to that described in Example 5, 6-amino-4-(3'-chloro-4'-fluoroanilino)-7-fluoroquinazoline was reacted with 4-chlorobutyryl chloride to give 6-(4-chlorobutyramido)-4-(3'-chloro-4'-fluoroanilino)-7-fluoroquinazoline hydrochloride as a solid in 91% yield;

reactant | 6-amino-4-(3'-chloro-4'-fluoroanilino)-7-fluoroquinazoline | NC=1C=C2C(=NC=NC2=CC1F)NC1=CC(=C(C=C1)F)Cl | C14H9ClF2N4
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 6-(4-chlorobutyramido)-4-(3'-chloro-4'-fluoroanilino)-7-fluoroquinazoline hydrochloride | 91% yield | Cl.ClCCCC(=O)NC=1C=C2C(=NC=NC2=CC1F)NC1=CC(=C(C=C1)F)Cl | InChI=1S/C18H14Cl2F2N4O.ClH/c19-5-1-2-17(27)26-16-7-11-15(8-14(16)22)23-9-24-18(11)25-10-3-4-13(21)12(20)6-10;/h3-4,6-9H,1-2,5H2,(H,26,27)(H,23,24,25);1H
